US08034806B2
To a solution of 5-bromoisoindolin-1-one III-3 (100 mg, 0.47 mmol) in DMF (2 mL) was added 3-fluorophenylacetylene III-4 (67 mg, 0.56 mmol), Pd(Ph3P)4 (27 mg, 0.02 mmol), CuI (9 mg, 0.04 mmol) and diethylamine (200 μL). The reaction vessel was sealed and heated at 60° C. for 1 h in a microwave reactor. The reaction was cooled to rt, diluted with EtOAc:hexanes (2:1, 8 mL) and washed with water (2×5 mL) and brine (5 mL). The organic phase was dried over MgSO4, filtered and concentrated under vacuum. The crude product was purified by mass directed preparative HPLC to afford 5-((3-fluorophenyl)ethynyl)isoindolin-1-one III-5 (42 mg, 35%) as a light brown solid; 1H-nmr (400 MHz, CDCl3) δ 7.92 (d, J=8.0 Hz, 1H), 7.68 (d, J=8.0 Hz, 1H), 7.56 (s, 1H), 7.40-7.31 (m, 2H), 7.28-7.22 (m, 1H), 7.14-7.07 (m, 1H), 5.36 (s, 2H); LC (214 nM) 3.38 min (>98%); MS (ESI) m/z=253.1.

reactant | 5-bromoisoindolin-1-one | BrC=1C=C2CNC(C2=CC1)=O | C8H6BrNO
reactant | 3-fluorophenylacetylene | FC=1C=C(C=CC1)C#C | C8H5F
reactant | diethylamine | 200 μL | C(C)NCC | C4H11N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | Pd(Ph3P)4 | 0.02 mmol, 27 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.04 mmol, 9 mg | [Cu]I
product | 5-((3-fluorophenyl)ethynyl)isoindolin-1-one | FC=1C=C(C=CC1)C#CC=1C=C2CNC(C2=CC1)=O | C16H10FNO
